US04263291
Dichloroacetyl chloride (3.58 g.) was added with stirring and ice-cooling to a suspension of 2-hydroxyimino-2-(isothiazol-4-yl)acetic acid (syn isomer) (1.50 g.) in dry methylene chloride (40 ml.), and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was concentrated to the volume of 10 ml. Petroleum ether (50 ml.) was added to the residue and the mixture was cooled in dry ice-acetone bath. Precipitates were collected by filtration and washed with petroleum ether to give 2-dichloroacetoxyimino-2-(isothiazol-4-yl)acetic acid (syn isomer) (1.20 g.).

reactant | Dichloroacetyl chloride | 3.58 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2-hydroxyimino-2-(isothiazol-4-yl)acetic acid | 1.50 g | ON=C(C(=O)O)C=1C=NSC1 | C5H4N2O3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-dichloroacetoxyimino-2-(isothiazol-4-yl)acetic acid | 1.20 g | ClC(C(=O)ON=C(C(=O)O)C=1C=NSC1)Cl | C7H4Cl2N2O4S
